US05739394
Ethyl 2-chloro-4,4,4-trifluoro-3,3-dimethoxybutanecarboxylate
265 g of a 20% strength solution of sodium ethylate in ethanol were added dropwise to 100 g of 2-chloro-1,1,1,4,4,4-hexafluoro-3,3-dimethoxy-butane in 50 ml of ethanol at room temperature. The reaction mixture was then stirred under reflux for 12 hours and cooled to room temperature, and 100 ml of 50% strength sulfuric acid were added dropwise. After the mixture had been refluxed again for 3 hours, it was poured onto water and extracted with methylene chloride and the organic phase was dried over sodium sulfate. After removal of the solvent, the residue was distilled in vacuo.

reactant | sodium ethylate | CC[O-].[Na+]
reactant | 2-chloro-1,1,1,4,4,4-hexafluoro-3,3-dimethoxy-butane | 100 g | ClC(C(F)(F)F)C(C(F)(F)F)(OC)OC | C6H7ClF6O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 2-chloro-4,4,4-trifluoro-3,3-dimethoxybutanecarboxylate | ClC(CC(=O)OCC)C(C(F)(F)F)(OC)OC | C9H14ClF3O4
